US04330539
Potassium hydroxide (4.8 ml; 10 N) was added to a stirred suspension of 17β-(N-acetyl-methylamino)-5α-androstane-3β,16β-diol (4.8 g) in ethanol (96 ml) and the stirred mixture was heated under reflux for 2 h. A clear solution was obtained after 5 min., and a solid product precipitated after 30 min. The mixture was cooled, water was added, followed by brine and the product was filtered off and washed with water. Crystallisation from aqueous ethanol gave 17β-methylamino-5α-androstane-3β,16β-diol as prisms (3.5 g), m.p. 241°-253° C.

reactant | Potassium hydroxide | 10 N, 4.8 ml | [OH-].[K+]
reactant | 17β-(N-acetyl-methylamino)-5α-androstane-3β,16β-diol | 4.8 g | C(C)(=O)N([C@@H]1[C@]2(C)[C@@H](C[C@@H]1O)[C@@H]1CC[C@H]3C[C@H](CC[C@]3(C)[C@H]1CC2)O)C | C22H37NO3
solvent | ethanol | 96 ml | C(C)O | C2H6O
product | 17β-methylamino-5α-androstane-3β,16β-diol | 3.5 g | CN[C@@H]1[C@]2(C)[C@@H](C[C@@H]1O)[C@@H]1CC[C@H]3C[C@H](CC[C@]3(C)[C@H]1CC2)O | C20H35NO2
